US05130301
3 ml of 35% aqueous solution of methylamine are added in a single portion to a suspension of 1.1 g (0.005 mol) of 6-hydroxy-5,6-dihydro-4-oxo-4H-pyrrolo -[1,2-a]thieno[2,3-f][1,4]diazepine in 20 ml of water, and the reaction mixture is then stirred for 4 hours at room temperature The product is gradually solubilized and then reprecipitates The precipitate is drained, washed with water, dried and recrystallized. 0.7 g of 6-methylamino-5,6-dihydro-4-oxo-4H -pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine is obtained in the form of white crystals, melting point 146° C. (ethyl ether).

reactant | methylamine | CN | CH5N
reactant | 6-hydroxy-5,6-dihydro-4-oxo-4H-pyrrolo -[1,2-a]thieno[2,3-f][1,4]diazepine | 0.005 mol, 1.1 g | OC1C=2N(C3=C(C(N1)=O)SC=C3)C=CC2 | C10H8N2O2S
solvent | water | 20 ml | O | H2O
product | 6-methylamino-5,6-dihydro-4-oxo-4H -pyrrolo[1,2-a]thieno[2,3-f][1,4]diazepine | 0.7 g, Yield: 60% | CNC1C=2N(C3=C(C(N1)=O)SC=C3)C=CC2 | C11H11N3OS
